US07767680B2
A mixture of 2-fluorobenzaldehyde (5 g, 40.28 mmol), urea (3.8 g, 61 mmol), ethylacetoaceate(5.24 g, 40.28 mmol), CuCl (0.4 g,4 mmol), BF3.OEt2 (7 mL, 53 mmol), and glacial acetic acid(0.24g, 4 mmol) in THF (80 mL) was refluxed for 18 h and then cooled to room temperature. The mixture was quenched with saturated NaHCO3 (50 mL), and EtOAc (100 mL) was added. The layers were separated and the organic layer with a white suspension was evaporated to give a white solid. The solid was suspended in toluene (100 mL) and stirred for 2 days at room temperature. The solid was filtered, washed with ether, and dried to give ethyl 4-(2-fluorophenyl)-1,2,3,4-tetrahydro-6-methyl-2-oxopyrimidine-5-carboxylate (9.9 g, 88%). Mass Spec. FIA MS 279 (M+1).

reactant | 2-fluorobenzaldehyde | 40.28 mmol, 5 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | urea | 61 mmol, 3.8 g | NC(=O)N | CH4N2O
reactant | ethylacetoaceate | 40.28 mmol, 5.24 g | C(C)OC(CC(=O)C)=O | C6H10O3
reactant | BF3.OEt2 | 53 mmol, 7 mL | B(F)(F)F.CCOCC
reactant | acetic acid | 4 mmol, 0.24g | C(C)(=O)O | C2H4O2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | CuCl | 4 mmol, 0.4 g | Cl[Cu]
product | ethyl 4-(2-fluorophenyl)-1,2,3,4-tetrahydro-6-methyl-2-oxopyrimidine-5-carboxylate | 9.9 g, 88% | FC1=C(C=CC=C1)C1NC(NC(=C1C(=O)OCC)C)=O | C14H15FN2O3
